US09388185B2
Step 2. 1-(tetrahydro-2H-pyran-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
A mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (30.0 mg, 0.154 mmol), and tetrahydro-2H-pyran-4-yl methanesulfonate (0.150 g, 0.460 mmol) in acetonitrile (1.0 mL) was stirred at 90° C. for 2 hours. The reaction was quenched with water, extracted with ethyl acetate. The combined organic layer was dried over MgSO4, then filtered and concentrated under reduced pressure to afford the desired product (35 mg, 80%), which was used directly in the next step without further purification. LCMS calculated for C14H24BN2O3 (M+H)+: m/z=279.2. Found: 279.2.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.154 mmol, 30.0 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | tetrahydro-2H-pyran-4-yl methanesulfonate | 0.460 mmol, 0.150 g | CS(=O)(=O)OC1CCOCC1 | C6H12O4S
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 1-(tetrahydro-2H-pyran-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 35 mg, 80% | O1CCC(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
